* tb_pnp_vbe.spice -- gf180mcu vertical (substrate) PNP characterization
*
* Device-level evidence base for the Brokaw core selected in DR-0001
* (spec/decision-records/0001-bandgap-topology-selection.md): VBE(I,T),
* dVBE/dT, dVBE between area-ratioed devices, ideality factor, forward beta
* and the usable emitter-current window.
*
* All four gf180mcu vertical PNP geometries are instantiated diode-connected
* in the configuration a bandgap core actually uses: the collector is the
* p-substrate (hard ground) and the base is shorted to it, so the device is a
* grounded-base diode driven from the emitter. A 0 V source in each base leg
* senses the base current so forward beta can be reported from the same sweep.
*
* Emitter current is swept logarithmically 1 pA -> 1 mA by sweeping the
* exponent: a behavioural source delivers 10^v(ctrl) A, and v(ctrl) is swept
* linearly from -12 to -3 in 0.1-decade steps (91 points). ngspice's .dc only
* supports linear increments, so this is how a decade sweep is expressed.
* Issue #4 asks for at least 1 nA -> 1 mA; the sweep runs three decades lower
* so the low-current recombination/leakage floor is actually inside the data
* rather than sitting just off the bottom of it.
*
* This testbench has no supply rail (see the record's corner-matrix note).
*
* This is a *fragment*, per sim/harness/README.md's testbench convention: no
* .include, .lib, .temp, .control, .end -- sim/harness supplies the PDK
* models, the corner .lib section(s), .temp and the measurement control
* block (see tb.json's "measure" map). run_pnp_vbe.py drives the full
* VBE(I,T)/dVBE/ideality/beta extraction (DC sweep 1 pA .. 1 mA, interpolated
* at several current criteria, for every process/temperature point) directly
* against sim/harness's library (pdk.py, runner.py, report.py, corners.py);
* `python3 sim/run_corners.py device-pnp-vbe` runs this same fragment through
* the harness's generic single-grid CLI as a secondary, representative check
* (see tb.json's description).
*
* Run via: sim/device-pnp-vbe/run_pnp_vbe.py

Vctrl ctrl 0 dc -6

* ---- 5.00 um x 5.00 um emitter (Ae = 25 um^2) ----
B5x5    0 e5x5 I = pow(10, v(ctrl))
Vb5x5   b5x5 0 dc 0
XQ5x5   0 b5x5 e5x5 pnp_05p00x05p00

* ---- 10.00 um x 10.00 um emitter (Ae = 100 um^2; 4:1 drawn area vs 5x5) ----
B10x10  0 e10x10 I = pow(10, v(ctrl))
Vb10x10 b10x10 0 dc 0
XQ10x10 0 b10x10 e10x10 pnp_10p00x10p00

* ---- 5.00 um x 0.42 um emitter (Ae = 2.1 um^2) ----
B5x042    0 e5x042 I = pow(10, v(ctrl))
Vb5x042   b5x042 0 dc 0
XQ5x042   0 b5x042 e5x042 pnp_05p00x00p42

* ---- 10.00 um x 0.42 um emitter (Ae = 4.2 um^2) ----
B10x042   0 e10x042 I = pow(10, v(ctrl))
Vb10x042  b10x042 0 dc 0
XQ10x042  0 b10x042 e10x042 pnp_10p00x00p42
