* tb_resistor_tc.spice -- gf180mcu resistor flavor characterization
*
* Candidates for the PTAT / trim network of the Brokaw core selected in
* DR-0001: the unsalicided p-poly family (ppolyf_u and the high-sheet
* ppolyf_u_1k / _2k / _3k) plus two diffusion flavors (pplus_u, nplus_u) for
* contrast. Note gf180mcu has no `rpolyh` -- that is a sky130 device name.
*
* Every DUT is drawn as 10 squares (L = 10 x W) at two widths, 1 um and 5 um,
* so the drawn-vs-effective geometry bias (r_dw / r_dl in the PDK subcircuits)
* shows up as a width-dependent effective sheet resistance rather than hiding
* inside a single number.
*
* Bias: each resistor is driven from a 50 mV source, i.e. 50 mV across 10
* squares. That is a low-field bias (50 V/cm at W = 1 um, 10 V/cm at W = 5 um)
* and it is the same field for every flavor, so the extracted resistances are
* directly comparable. Three extra high-sheet DUTs are biased at 500 mV to
* probe the voltage coefficient.
*
* The p+ diffusion resistor sits in an n-well, which must be reverse-biased.
* Its well tie is the only node in this deck above ground; corner.spice sets
* v_nwell. It carries no signal current, and the run script sweeps it over
* +/-10% of 3.3 V at one corner to demonstrate that.
*
* corner.spice is generated per corner point by the run script from
* $PDK_ROOT / $PDK and must define v_nwell.
*
* Run via: sim/device-resistor-tc/run_resistor_tc.py

.include corner.spice

Vnw nw 0 dc 'v_nwell'

* ---- unsalicided p-poly, ~350 ohm/sq nominal ----
V_pu_w1  n_pu_w1 0 dc 50m
X_pu_w1  n_pu_w1 0 0 ppolyf_u  r_width=1u r_length=10u
V_pu_w5  n_pu_w5 0 dc 50m
X_pu_w5  n_pu_w5 0 0 ppolyf_u  r_width=5u r_length=50u

* ---- high-sheet unsalicided p-poly, 1 kohm/sq nominal ----
V_p1k_w1 n_p1k_w1 0 dc 50m
X_p1k_w1 n_p1k_w1 0 0 ppolyf_u_1k r_width=1u r_length=10u
V_p1k_w5 n_p1k_w5 0 dc 50m
X_p1k_w5 n_p1k_w5 0 0 ppolyf_u_1k r_width=5u r_length=50u

* ---- high-sheet unsalicided p-poly, 2 kohm/sq nominal ----
V_p2k_w1 n_p2k_w1 0 dc 50m
X_p2k_w1 n_p2k_w1 0 0 ppolyf_u_2k r_width=1u r_length=10u
V_p2k_w5 n_p2k_w5 0 dc 50m
X_p2k_w5 n_p2k_w5 0 0 ppolyf_u_2k r_width=5u r_length=50u

* ---- high-sheet unsalicided p-poly, 3 kohm/sq nominal ----
V_p3k_w1 n_p3k_w1 0 dc 50m
X_p3k_w1 n_p3k_w1 0 0 ppolyf_u_3k r_width=1u r_length=10u
V_p3k_w5 n_p3k_w5 0 dc 50m
X_p3k_w5 n_p3k_w5 0 0 ppolyf_u_3k r_width=5u r_length=50u

* ---- unsalicided p+ diffusion (in n-well), ~185 ohm/sq nominal ----
V_pp_w1  n_pp_w1 0 dc 50m
X_pp_w1  n_pp_w1 0 nw pplus_u r_width=1u r_length=10u
V_pp_w5  n_pp_w5 0 dc 50m
X_pp_w5  n_pp_w5 0 nw pplus_u r_width=5u r_length=50u

* ---- unsalicided n+ diffusion (in p-substrate), ~60 ohm/sq nominal ----
V_np_w1  n_np_w1 0 dc 50m
X_np_w1  n_np_w1 0 0 nplus_u r_width=1u r_length=10u
V_np_w5  n_np_w5 0 dc 50m
X_np_w5  n_np_w5 0 0 nplus_u r_width=5u r_length=50u

* ---- voltage-coefficient probes: same devices at 10x the bias ----
V_p1k_hv n_p1k_hv 0 dc 500m
X_p1k_hv n_p1k_hv 0 0 ppolyf_u_1k r_width=1u r_length=10u
V_p2k_hv n_p2k_hv 0 dc 500m
X_p2k_hv n_p2k_hv 0 0 ppolyf_u_2k r_width=1u r_length=10u
V_p3k_hv n_p3k_hv 0 dc 500m
X_p3k_hv n_p3k_hv 0 0 ppolyf_u_3k r_width=1u r_length=10u

.control
set width  = 512
set height = 100000
op
print i(v_pu_w1) i(v_pu_w5)
print i(v_p1k_w1) i(v_p1k_w5)
print i(v_p2k_w1) i(v_p2k_w5)
print i(v_p3k_w1) i(v_p3k_w5)
print i(v_pp_w1) i(v_pp_w5)
print i(v_np_w1) i(v_np_w5)
print i(v_p1k_hv) i(v_p2k_hv) i(v_p3k_hv)
quit
.endc

.end
